* NOT Gate Layout 
.include TSMC_180nm.txt
.param SUPPLY = 1.8
.option scale=0.09u
.global gnd vdd

M1000 out in vdd w_0_n6# CMOSP w=20 l=2
+  ad=100 pd=50 as=100 ps=50
M1001 out in gnd Gnd CMOSN w=10 l=2
+  ad=50 pd=30 as=50 ps=30
C0 in gnd 0.02fF
C1 w_0_n6# out 0.02fF
C2 in out 0.04fF
C3 w_0_n6# in 0.07fF
C4 w_0_n6# vdd 0.02fF
C5 gnd Gnd 0.06fF
C6 out Gnd 0.03fF
C7 vdd Gnd 0.04fF
C8 in Gnd 0.13fF
C9 w_0_n6# Gnd 0.80fF

Vdd vdd gnd 'SUPPLY'

Va in gnd pulse 0 1.8 0 0.01ns 0.01ns 10ns 20ns

.tran 1p 50n

.control

set hcopypscolor = 1
set color0=white
set color1=black

run

set curplottitle="NOT gate verification-2025122009"
plot v(out)+2, v(in)

.endc
